US04772620
5-Trifluoromethylpicolinealdehyde (3.5 g) was added dropwise at room temperature to a solution of trimethylenediamine (7.4 g) in benzene (70 ml). After the addition, the mixture was gradually heated with stirring, and then refluxed for 2 hours while removing water that azeotroped. Benzene was distilled off under reduced pressure. The residue was dissolved in ethanol (100 ml), and sodium borohydride (0.9 g) was added little by little while the solution was stirred at 10° to 15° C. The mixture was then stirred at room temperature for 2 hours, and ethanol was distilled off at less than 30° C. Dichloromethane was added to the residue, and a portion soluble in dichloromethane was separated. Dichloromethane was distilled off under reduced pressure, and volatile materials were removed at 1 mmHg and less than 60° C. to give N-(5-trifluoromethyl-2-pyridylmethyl)trimethylenediamine (3.5 g) as a colorless oil.

reactant | 5-Trifluoromethylpicolinealdehyde | 3.5 g | FC(C=1C=CC(=NC1)C=O)(F)F | C7H4F3NO
reactant | trimethylenediamine | 7.4 g | NCCCN | C3H10N2
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | N-(5-trifluoromethyl-2-pyridylmethyl)trimethylenediamine | 3.5 g | FC(C=1C=CC(=NC1)CNCCCN)(F)F | C10H14F3N3
